US08168794B2
To a solution of tert-butyl 6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate (1.0 equiv.) in DCM (0.09 M) was added triethylamine (1.5 equiv.) and the reaction was cooled to 0° C. MsCl (1.2 equiv.) was added to the reaction and stirred for 3 h. Another 1.0 equiv. of MsCl was added to the reaction and stirred for another 2 h. Worked up the reaction by adding water, the organic phase was dried with brine, sodium sulfate, and concentrated. The crude product was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:1) to afford 2-(tert-butoxycarbonylamino)-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate as a white foam in 65% yield. LC/MS=428.2 (M+H), LC: 3.542 min.

reactant | tert-butyl 6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | 1.0 equiv. | OC1C(CC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-])C | C17H23N3O5
reactant | triethylamine | 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | MsCl | 1.2 equiv. | CS(=O)(=O)Cl | CH3ClO2S
reactant | MsCl | 1.0 equiv. | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | 0.09 M | C(Cl)Cl | CH2Cl2
product | 2-(tert-butoxycarbonylamino)-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate | 65% yield | CS(=O)(=O)OC1C(C=C(CC1C)C1=C(C=NC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C | C18H25N3O7S
